US05922771
2-[3-(7-Methoxy-3,4-dihydronaphthalen-1-yl)propyl]isoindole-1,3-dione
A mixture of 4-(3-bromopropyl)-1,2-dihydro-6-methoxynaphthalene (10 g, 35.6 mmol.) and potassium phthalimide (7.9 g, 42.7 mmol.) was stirred in N,N-dimethylformamide (50 ml) for one hour at 100° C. The reaction mixture was cooled to room temperature, to which was poured water, then the organic substance was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue thus obtained was purified by means of a silica gel column chromatography (ethyl acetate:hexane=2:8) to afford the titled compound (11.8 g, yield 95%, oily).

reactant | 4-(3-bromopropyl)-1,2-dihydro-6-methoxynaphthalene | 35.6 mmol, 10 g | BrCCCC1=CCCC2=CC=C(C=C12)OC | C14H17BrO
reactant | potassium phthalimide | 42.7 mmol, 7.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[3-(7-Methoxy-3,4-dihydronaphthalen-1-yl)propyl]isoindole-1,3-dione | 11.8 g, yield 95% | COC1=CC=C2CCC=C(C2=C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C22H21NO3
